US04950705
(Synthesis of acetoacetanilide cobalt complex)
Four grams (0.1 mol) of sodium hydroxide were dissolved in 150 cc of water. To this solution, 17.7 g (0.1 mol) of acetoacetanilide were added while stirring. After the dissolution had been completed, the obtained solution was dripped taking 10 minutes while vigorously stirring into a cobalt (II) chloride aqueous solution which had been prepared in advance by dissolving 11.9 g (0.04 mol) of hexahydrated cobalt (II) chloride in 20 cc of water. Then, the produced precipitate was separated by filtration and washed with 200 cc of water, followed by vacuum drying to obtain 19.0 g of the object: acetoacetanilide cobalt complex.

reactant | sodium hydroxide | 0.1 mol, Four grams | [OH-].[Na+]
reactant | acetoacetanilide | 0.1 mol, 17.7 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | cobalt (II) chloride | [Co](Cl)Cl
solvent | water | 150 cc | O | H2O
solvent | water | 20 cc | O | H2O
product | acetoacetanilide cobalt | [Co].C(CC(=O)C)(=O)NC1=CC=CC=C1 | InChI=1S/C10H11NO2.Co/c1-8(12)7-10(13)11-9-5-3-2-4-6-9;/h2-6H,7H2,1H3,(H,11,13);
